US06166246
1.93 g (0.01 mole) of 5-chloro-2,4-difluorobenzoic acid, 1.62 g (0.04 mole) of powdery 99% sodium hydroxide and 20 ml of 1-methyl-2-pyrrolidone were fed into a 100-ml four-necked flask provided with a thermometer, a stirrer and a reflux condenser. The mixture was stirred at 130° C. for 3 hours to give rise to a reaction. After the completion of the reaction, part of 1-methyl-2-pyrrolidone was recovered. The resulting reaction mixture was diluted with 500 ml of water and then subjected to precipitation with a 10% aqueous hydrochloric acid solution. The resulting crystals were collected by filtration, washed with water, and dried to obtain 1.76 g of 5-chloro-4-fluorosalicylic acid. The isolated yield was 92.1% relative to the 5-chloro-2,4-difluorobenzoic acid used.

reactant | 5-chloro-2,4-difluorobenzoic acid | 0.01 mole, 1.93 g | ClC=1C(=CC(=C(C(=O)O)C1)F)F | C7H3ClF2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-methyl-2-pyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 500 ml | O | H2O
product | 5-chloro-4-fluorosalicylic acid | 1.76 g, yield was 92.1% | ClC1=C(C=C(C(C(=O)O)=C1)O)F | C7H4ClFO3
